US07030063B1
Step e) 2-[(8-Difluoromethylquinolin-5-yl)carbonyl]-1-chloro-4,4,6,6-tetramethyl-cyclohex-1-ene-3,5-dione (Compound 2.31)
0.25 g (0.65 mmol) of 2-(8-difluoromethylquinolin-5-yl)carbonyl-4,4,6,6-tetramethyl-cyclohexane-1,3,5-trione was dissolved in 15 ml of dichloromethane and 0.25 g (1.95 mmol) of oxalyl chloride and 7 drops of dimethylformamide were added. The mixture was stirred at 25° C. for 17 hours, after which the solvent was removed. This gave 0.2 g of colorless crystals.

reactant | 2-(8-difluoromethylquinolin-5-yl)carbonyl-4,4,6,6-tetramethyl-cyclohexane-1,3,5-trione | 0.65 mmol, 0.25 g | FC(C=1C=CC(=C2C=CC=NC12)C(=O)C1C(C(C(C(C1=O)(C)C)=O)(C)C)=O)F | C21H19F2NO4
reactant | oxalyl chloride | 1.95 mmol, 0.25 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 7 drops | CN(C=O)C | C3H7NO
product | 2-[(8-Difluoromethylquinolin-5-yl)carbonyl]-1-chloro-4,4,6,6-tetramethyl-cyclohex-1-ene-3,5-dione | FC(C=1C=CC(=C2C=CC=NC12)C(=O)C1=C(C(C(C(C1=O)(C)C)=O)(C)C)Cl)F | C21H18ClF2NO3
